### PR TITLE
[Merged by Bors] - feat: Define dual submodule wrt bilinear form

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/BilinearForm/Basic.lean [hunk 1]
```diff
@@ -137,6 +139,14 @@ theorem sub_right (x y z : M₁) : B₁ x (y - z) = B₁ x y - B₁ x z := by
   rw [sub_eq_add_neg, sub_eq_add_neg, add_right, neg_right]
 #align bilin_form.sub_right BilinForm.sub_right
 
+@[simp]
+lemma smul_left_of_tower {r : S} {x y : M} : B (r • x) y = r • B x y := by
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/BilinearForm/Basic.lean:143]:
```suggestion
lemma smul_left_of_tower (r : S) (x y : M) : B (r • x) y = r • B x y := by
```
Similarly below.

File: Mathlib/LinearAlgebra/BilinearForm/DualLattice.lean [hunk 2]
```diff
@@ -0,0 +1,130 @@
...
+def dualSubmoduleParing {N : Submodule R M} (x : B.dualSubmodule N) (y : N) : R :=
+  (x.prop y y.prop).choose
+
+@[simp]
+lemma dualSubmoduleParing_spec {N : Submodule R M} (x : B.dualSubmodule N) (y : N) :
+    algebraMap R S (B.dualSubmoduleParing x y) = B x y :=
+  (x.prop y y.prop).choose_spec
+
+/-- The natural paring of `B.dualSubmodule N` and `N`. -/
+-- TODO: Show that this is perfect when `N` is a lattice.
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/BilinearForm/DualLattice.lean:57]:
```suggestion
-- TODO: Show that this is perfect when `N` is a lattice and `B` is nondegenerate.
```
Or something like that.

File: Mathlib/LinearAlgebra/BilinearForm/DualLattice.lean [hunk 3]
```diff
@@ -0,0 +1,130 @@
...
+    (N : Submodule R M) (hN : Submodule.span S (N : Set M) = ⊤) :
+    Function.Injective (B.dualSubmoduleToDual N) := by
+  intro x y e
+  ext
+  apply LinearMap.ker_eq_bot.mp hB.ker_eq_bot
+  apply LinearMap.ext_on hN
+  intro z hz
+  simpa using congr_arg (algebraMap R S) (LinearMap.congr_fun e ⟨z, hz⟩)
+
+lemma dualSubmodule_span_of_basis {ι} [Fintype ι] [DecidableEq ι] [FiniteDimensional S M]
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/BilinearForm/DualLattice.lean:82]: `FiniteDimensional S M` is automatic since you have a finite basis.

File: Mathlib/LinearAlgebra/BilinearForm/Properties.lean [hunk 4]
```diff
@@ -491,6 +502,26 @@ theorem apply_dualBasis_right (B : BilinForm K V) (hB : B.Nondegenerate) (sym :
   rw [sym, apply_dualBasis_left]
 #align bilin_form.apply_dual_basis_right BilinForm.apply_dualBasis_right
 
+lemma dualBasis_dualBasis_flip (B : BilinForm K V) (hB : B.Nondegenerate) {ι}
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/BilinearForm/Properties.lean:505]:
```suggestion
lemma dualBasis_dualBasis_flip {B : BilinForm K V} (hB : B.Nondegenerate) {ι}
```
This can be `simp`.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/LinearAlgebra/BilinearForm/DualLattice.lean (hunk 3 above)
Comment (erdOne) [reply Mathlib/LinearAlgebra/BilinearForm/DualLattice.lean:82]: But `dualBasis` needs `[FiniteDimensional S M]`. Or maybe we should remove that from `dualBasis`.

Comment (riccardobrasca) [reply Mathlib/LinearAlgebra/BilinearForm/DualLattice.lean:82]: You can write
```
let _ : FiniteDimensional S M := ...
```
before the `:` and it should be happy (not 100% sure the syntax is exactly that, but it is similar, and I forgot if we want `let` or `letI` here).

File: Mathlib/LinearAlgebra/BilinearForm/Properties.lean (hunk 4 above)
Comment (erdOne) [reply Mathlib/LinearAlgebra/BilinearForm/Properties.lean:505]: I think `B` should be explicit following the lemmas above.

File: Mathlib/LinearAlgebra/BilinearForm/DualLattice.lean (hunk 3 above)
Comment (erdOne) [reply Mathlib/LinearAlgebra/BilinearForm/DualLattice.lean:82]: I added that over at `dualBasis`.

**Comment by erdOne** [comment]
bors merge
